US07666659B2
Process of Producing ethyl 2-formylhexanoate
First, 60 g of 60% NaH was suspended in 600 ml of THF and 72.1 g of ethyl hexanoate was added dropwise to the suspension solution thus prepared at room temperature. After the suspension solution was raised in temperature to 40° C. and stirred for 15 minutes, 185.2 g of ethyl formate was added dropwise for 6 hours. Furthermore, 30 g of 60% NaH and 92.6 g of ethyl formate were divided into four parts and each part was added separately. Afterward, the solution mixture was stirred at 40° C. for 3 hours.

reactant | NaH | 60 g | [H-].[Na+]
reactant | ethyl hexanoate | 72.1 g | C(CCCCC)(=O)OCC | C8H16O2
reactant | ethyl formate | 185.2 g | C(=O)OCC | C3H6O2
reactant | NaH | 30 g | [H-].[Na+]
reactant | ethyl formate | 92.6 g | C(=O)OCC | C3H6O2
solvent | THF | 600 ml | C1CCOC1 | C4H8O
product | ethyl 2-formylhexanoate | C(=O)C(C(=O)OCC)CCCC | C9H16O3
